US07332508B2
{4-[3-(1-Cyclopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]phenyl}phenylmethanone
The title compound was prepared by a similar procedure to that described in Example 35a, starting from 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine and 4-benzoylbenzoyl chloride.

reactant | 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine | C1(CC1)N1CCC(CC1)C(=N)NO | C9H17N3O
reactant | 4-benzoylbenzoyl chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
product | {4-[3-(1-Cyclopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]phenyl}phenylmethanone | C1(CC1)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C23H23N3O2
